US07799805B2
{2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-carbamic acid tert-butyl ester
DIPEA (2.61 mL, 5.60 mmol) and Boc2O (1.22 g, 5.60 mmol) were added to a sol. of {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-amine (1.73 g, 5.09 mmol) in CH2Cl2 (50 mL). The mixture was stirred at rt for 4 h. The mixture was diluted with CH2Cl2 (50 mL), washed with aq. sat. NaHCO3, aq. sat. NH4Cl and brine. The org. layer was dried over MgSO4, filtered, the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 10:90) yielded the title compound (2.14 g, 96%). LC-MS: tR=1.26 min.

reactant | DIPEA | 5.60 mmol, 2.61 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc2O | 5.60 mmol, 1.22 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-amine | 5.09 mmol, 1.73 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1Cl)CCNC1CC1)(C)C | C18H30ClNOSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | {2-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-carbamic acid tert-butyl ester | 2.14 g, 96% | C(C)(C)(C)OC(N(C1CC1)CCC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C23H38ClNO3Si
